US07056918B2
1-(2-Chloro-phenyl)-3-methyl-5-(4-m-tolyl-oxazol-5-yl)-1,3-dihydro-benzoimidazol-2-one
A slurry of 1-(2-chloro-phenyl)-3-methyl-2-oxo-2,3-dihydro-1H-benzoimidazole-5-carbaldehyde (prepared as described previously, 100 mg, 0.35 mmol), [(toluene-4-sulfonyl)-m-tolyl-methyl]-isonitrile (prepared as described previously, 110 mg, 0.38 mmol) and potassium carbonate (53.1 mg, 0.38 mmol) in DMF was heated to 60° C. overnight. The reaction mixture was cooled to room temperature and quenched with water. The resulting aqueous solution was extracted with ethyl acetate and the combined organic extracts were washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo to afford a brown oil. Purification by HPLC (30–80% acetonitrile/water gradient) afforded 40 mg of the title compound. MS (M+1)=416.3

reactant | 1-(2-chloro-phenyl)-3-methyl-2-oxo-2,3-dihydro-1H-benzoimidazole-5-carbaldehyde | ClC1=C(C=CC=C1)N1C(N(C2=C1C=CC(=C2)C=O)C)=O | C15H11ClN2O2
reactant | [(toluene-4-sulfonyl)-m-tolyl-methyl]-isonitrile | C1(=CC=C(C=C1)S(=O)(=O)C(C=1C=C(C=CC1)C)[N+]#[C-])C | C16H15NO2S
reactant | potassium carbonate | 0.38 mmol, 53.1 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-(2-Chloro-phenyl)-3-methyl-5-(4-m-tolyl-oxazol-5-yl)-1,3-dihydro-benzoimidazol-2-one | 40 mg | ClC1=C(C=CC=C1)N1C(N(C2=C1C=CC(=C2)C2=C(N=CO2)C=2C=C(C=CC2)C)C)=O | C24H18ClN3O2
